//16 bit comparator testbench

simulator lang=hspice

.include "comparator.sp"

simulator lang=spectre

include "/home/pcvlsi01/projects/gpdk045/LAB1-ArMi/models/spectre/gpdk045.scs" section=mc

Settings options rawfmt=psfbin
simulatorOptions options temp=70 gmindc=1e-15

global 0 VDD
parameters Supply=1.0 rise_time=1ps fall_time=1ps high_time=8ns perd=16ns
parameters s0=0 s1=0 s2=0 s3=0 s4=0 s5=1 s6=0 s7=1 s8=1 s9=1 s10=1 s11=1 s12=1 s13=0 s14=0 s15=1 s16=0 s17=0 s18=0 s19=0 s20=0 s21=0 s22=1 s23=1 s24=1 s25=0 s26=0 s27=0 s28=0 s29=0 s30=1 s31=1

subckt invchain in out
M1 (X in VDD VDD)	g45p1svt l=45n w=240n
M2 (X in 0 0) 		g45n1svt l=45n w=120n
M3 (out X VDD VDD)	g45p1svt l=45n w=240n
M4 (out X 0 0) 		g45n1svt l=45n w=120n
ends invchain

subckt outinv in out
M1 (out in VDD VDD)	g45p1svt l=45n w=960n
M2 (out in 0 0) 		g45n1svt l=45n w=480n
ends outinv

//Signals
Vdd (VDD 0) vsource dc=Supply

//Alterar Nomes e por os outros?
Va0  (AV0 0) vsource type=pulse val0=0 val1=s0 period=perd delay=0 rise=rise_time fall=fall_time width=high_time
Va1  (AV1 0) vsource type=pulse val0=0 val1=s1 period=perd delay=0 rise=rise_time fall=fall_time width=high_time
Va2  (AV2 0) vsource type=pulse val0=0 val1=s2 period=perd delay=0 rise=rise_time fall=fall_time width=high_time
Va3  (AV3 0) vsource type=pulse val0=0 val1=s3 period=perd delay=0 rise=rise_time fall=fall_time width=high_time
Va4  (AV4 0) vsource type=pulse val0=0 val1=s4 period=perd delay=0 rise=rise_time fall=fall_time width=high_time
Va5  (AV5 0) vsource type=pulse val0=0 val1=s5 period=perd delay=0 rise=rise_time fall=fall_time width=high_time
Va6  (AV6 0) vsource type=pulse val0=0 val1=s6 period=perd delay=0 rise=rise_time fall=fall_time width=high_time
Va7  (AV7 0) vsource type=pulse val0=0 val1=s7 period=perd delay=0 rise=rise_time fall=fall_time width=high_time
Va8  (AV8 0) vsource type=pulse val0=0  val1=s8 period=perd delay=0 rise=rise_time fall=fall_time width=high_time
Va9  (AV9 0) vsource type=pulse val0=0 val1=s9 period=perd delay=0 rise=rise_time fall=fall_time width=high_time
Va10  (AV10 0) vsource type=pulse val0=0 val1=s10 period=perd delay=0 rise=rise_time fall=fall_time width=high_time
Va11  (AV11 0) vsource type=pulse val0=s11 val1=s11 period=perd delay=0 rise=rise_time fall=fall_time width=high_time
Va12  (AV12 0) vsource type=pulse val0=s12 val1=s12 period=perd delay=0 rise=rise_time fall=fall_time width=high_time
Va13  (AV13 0) vsource type=pulse val0=s13 val1=s13 period=perd delay=0 rise=rise_time fall=fall_time width=high_time
Va14  (AV14 0) vsource type=pulse val0=s14 val1=s14 period=perd delay=0 rise=rise_time fall=fall_time width=high_time
Va15  (AV15 0) vsource type=pulse val0=s15 val1=s15 period=perd delay=0 rise=rise_time fall=fall_time width=high_time

Vb0  (BV0 0) vsource type=pulse val0=0 val1=s16 period=perd delay=4n rise=rise_time fall=fall_time width=high_time
Vb1  (BV1 0) vsource type=pulse val0=0 val1=s17 period=perd delay=4n rise=rise_time fall=fall_time width=high_time
Vb2  (BV2 0) vsource type=pulse val0=0 val1=s18 period=perd delay=4n rise=rise_time fall=fall_time width=high_time
Vb3  (BV3 0) vsource type=pulse val0=0 val1=s19 period=perd delay=4n rise=rise_time fall=fall_time width=high_time
Vb4  (BV4 0) vsource type=pulse val0=0 val1=s20 period=perd delay=4n rise=rise_time fall=fall_time width=high_time
Vb5  (BV5 0) vsource type=pulse val0=0 val1=s21 period=perd delay=4n rise=rise_time fall=fall_time width=high_time
Vb6  (BV6 0) vsource type=pulse val0=0 val1=s22 period=perd delay=4n rise=rise_time fall=fall_time width=high_time
Vb7  (BV7 0) vsource type=pulse val0=0 val1=s23 period=perd delay=4n rise=rise_time fall=fall_time width=high_time
Vb8  (BV8 0) vsource type=pulse val0=0 val1=s24 period=perd delay=4n rise=rise_time fall=fall_time width=high_time
Vb9  (BV9 0) vsource type=pulse val0=0 val1=s25 period=perd delay=4n rise=rise_time fall=fall_time width=high_time
Vb10  (BV10 0) vsource type=pulse val0=0 val1=s26 period=perd delay=4n rise=rise_time fall=fall_time width=high_time
Vb11  (BV11 0) vsource type=pulse val0=0 val1=s27 period=perd delay=4n rise=rise_time fall=fall_time width=high_time
Vb12  (BV12 0) vsource type=pulse val0=0 val1=s28 period=perd delay=4n rise=rise_time fall=fall_time width=high_time
Vb13  (BV13 0) vsource type=pulse val0=0 val1=s29 period=perd delay=4n rise=rise_time fall=fall_time width=high_time
Vb14  (BV14 0) vsource type=pulse val0=0 val1=s30 period=perd delay=4n rise=rise_time fall=fall_time width=high_time
Vb15  (BV15 0) vsource type=pulse val0=0 val1=s31 period=perd delay=4n rise=rise_time fall=fall_time width=high_time


//Instances

I0 (AV0 A0) invchain
I1 (AV1 A1) invchain
I2 (AV2 A2) invchain
I3 (AV3 A3) invchain
I4 (AV4 A4) invchain
I5 (AV5 A5) invchain
I6 (AV6 A6) invchain
I7 (AV7 A7) invchain
I8 (AV8 A8) invchain
I9 (AV9 A9) invchain
I10 (AV10 A10) invchain
I11 (AV11 A11) invchain
I12 (AV12 A12) invchain
I13 (AV13 A13) invchain
I14 (AV14 A14) invchain
I15 (AV15 A15) invchain

I16 (BV0 B0) invchain
I17 (BV1 B1) invchain
I18 (BV2 B2) invchain
I19 (BV3 B3) invchain
I20 (BV4 B4) invchain
I21 (BV5 B5) invchain
I22 (BV6 B6) invchain
I23 (BV7 B7) invchain
I24 (BV8 B8) invchain
I25 (BV9 B9) invchain
I26 (BV10 B10) invchain
I27 (BV11 B11) invchain
I28 (BV12 B12) invchain
I29 (BV13 B13) invchain
I30 (BV14 B14) invchain
I31 (BV15 B15) invchain

I32 (0 VDD A0 A1 A10 A11 A12 A13 A14 A15 A2 A3 A4 A5 A6 A7 A8 A9 B0 B1 B10 B11 B12 B13 B14 B15 B2 B3 B4 B5 B6 B7 B8 B9 E G L) comparator 
 
I33 (E EOUT) outinv
I34 (G GOUT) outinv
I35 (L LOUT) outinv


Wave tran stop=20n step=0.005

